US09108921B2
Step A: (E)-tert-butyl 4-(3,3-difluoroprop-1-enyl)-4-hydroxypiperidine-1-carboxylate (38B)
To a solution of tert-butyl 4-(3,3-difluoroprop-1-yn-1-yl)-4-hydroxypiperidine-1-carboxylate (280 mg, 1.016 mmol) in 30 mL of anhydrous THF was added dropwise sodium dihydro-bis-(2-methoxyethoxy)aluminate (587 mg, 2.032 mmol, 70%) at −78° C. under N2. After the addition, the reaction mixture was stirred at −78° C. under N2 for 5 h. The reaction mixture was quenched by sat. NH4Cl aq., and the resulting mixture was extracted with EtOAc (50 mL, 30 mL). The combined organic phase was washed with brine, dried over anhy. Na2SO4 and concentrated in vacuo to afford 291 mg of title compound. MS (ES) M+H expected 278.15, found 178.30. 1H NMR (CHLOROFORM-d) δ: 6.29-6.08 (m, 2H), 6.01-5.84 (m, 1H), 3.98-3.84 (m, 2H), 3.20 (t, J=11.4 Hz, 2H), 1.76-1.62 (m, 4H), 1.48 (s, 9H).

reactant | tert-butyl 4-(3,3-difluoroprop-1-yn-1-yl)-4-hydroxypiperidine-1-carboxylate | 1.016 mmol, 280 mg | FC(C#CC1(CCN(CC1)C(=O)OC(C)(C)C)O)F | C13H19F2NO3
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (E)-tert-butyl 4-(3,3-difluoroprop-1-enyl)-4-hydroxypiperidine-1-carboxylate | 291 mg | FC(/C=C/C1(CCN(CC1)C(=O)OC(C)(C)C)O)F | C13H21F2NO3
